data/mechanism_extracts/Angew/10.1002_anie.201909922.json
{"doi": "10.1002_anie.201909922", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical anodic decarboxylative lactonisation of allyl hemioxalate salts with aliphatic carboxylic acids to form γ-butyrolactones via radical cyclisation/cross-coupling", "mechanism_family": ["radical_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation (Pt) of the hemioxalate salt to an oxycarbonyl radical via decarboxylation, while the cathode (Pt) reduces protons (from MeOH/NH4+/co-acid) generating methoxide that deprotonates the co-acid; both electrodes contribute productively (paired electrolysis)", "key_intermediates": [{"name": "oxycarbonyl radical from hemioxalate (A)", "smiles": null, "role": "transient"}, {"name": "carbon-centred CH2 radical after 5-exo-trig cyclisation (B)", "smiles": null, "role": "reactive"}, {"name": "carboxylate of aliphatic co-acid (C)", "smiles": null, "role": "transient"}, {"name": "alkyl radical R• from decarboxylation of co-acid", "smiles": null, "role": "reactive"}, {"name": "R-R homodimer", "smiles": null, "role": "off_pathway"}, {"name": "acyl nitrene/isocyanate from oxamic acid (lactam attempt)", "smiles": null, "role": "off_pathway"}, {"name": "carbamate 20 from methoxide trapping of nitrogen-centred cation", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidises the hemioxalate to an oxycarbonyl radical that loses CO2 and undergoes 5-exo-trig cyclisation onto the pendant alkene, giving a primary C-radical; in parallel, the co-acid carboxylate is anodically decarboxylated to an alkyl radical, and the two radicals recombine at/near the electrode to give the γ-substituted lactone; the cathode reduces protons to H2, generating methoxide that maintains deprotonation of the co-acid.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of hemioxalate vs aliphatic acid", "smiles": null, "purpose": "redox_probe", "observation": "Hemioxalate 1 is easier to oxidise than the aliphatic co-acid, justifying portionwise addition of 1 to maintain low concentration"}, {"name": "carbon graphite electrode (control)", "smiles": null, "purpose": "other", "observation": "Unsuitable due to high H overpotential and strong adsorption of organics; supports choice of Pt"}, {"name": "deoxygenation/drying of solvent", "smiles": null, "purpose": "other", "observation": "No impact on yield, consistent with robust radical pathway at electrode surface"}, {"name": "N-tosyl hemioxalate 18 (lactam attempt)", "smiles": null, "purpose": "intermediate_trap", "observation": "No exo-cyclisation; instead overoxidation to N-centred cation trapped by MeOH/MeO- to give carbamate 20, indicating cation formation outcompetes radical cyclisation for N-substrates"}, {"name": "secondary co-acid (→ lactone 7)", "smiles": null, "purpose": "other", "observation": "Lower yield consistent with known anodic overoxidation of secondary alkyl radicals to carbocations"}, {"name": "halide-bearing co-acid (→ lactone 10)", "smiles": null, "purpose": "other", "observation": "Halogenated chain tolerated, indicating short radical lifetime / rapid recombination near electrode (no halide abstraction)"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Main by-product is the R-R homodimer from co-acid radicals; excess (5 equiv) co-acid is used to suppress homo-dimerisation of the cyclised radical. Attempted lactam synthesis from oxamic acids fails because nitrogen lone pair stabilises a cation pathway; even with EWG (Ts, OTf) on N, overoxidation dominates and methoxide traps the cation to give carbamate 20 rather than radical cyclisation product 19."}
